US07157487B2
To methyl (2-(1-isoquinolinyl)-6-benzoxazolyl)acetate (166 mg, 0.52 mmol) were added THF (3 ml) and 0.5N NaOH (3.0 ml, 1.50 mmol). The resulting mixture was stirred at room temperature for 12 hours. The reaction mixture was poured in ice-1N HCl to acidify therewith. The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure to give (2-(1-isoquinolinyl)-6-benzoxazolyl)acetic acid (138 mg, 87%) as a pale brown solid.

reactant | methyl (2-(1-isoquinolinyl)-6-benzoxazolyl)acetate | 0.52 mmol, 166 mg | C1(=NC=CC2=CC=CC=C12)C=1OC2=C(N1)C=CC(=C2)CC(=O)OC | C19H14N2O3
reactant | NaOH | 1.50 mmol, 0.5N, 3.0 ml | [OH-].[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (2-(1-isoquinolinyl)-6-benzoxazolyl)acetic acid | 138 mg, 87% | C1(=NC=CC2=CC=CC=C12)C=1OC2=C(N1)C=CC(=C2)CC(=O)O | C18H12N2O3
